US07612114B2
Synthesized from [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl]methanone according to an analogous synthetic method to Example 337 described below, 1-{2-{2-fluoro-4-[4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine (228 mg) was used according to an analogous synthetic method to Example 30 described below to provide 1-{2-{2-fluoro-4-[4-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine (200 mg). This compound (197 mg) was used according to an analogous synthetic method to Example 111 described below to provide the title compound (180 mg).

reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl]methanone | FC=1C=C(C=CC1OCCN1CCCCC1)C(=O)C1=C(C=C(C=C1)OC)C1=CC2=CC=C(C=C2CC1)OC | C32H34FNO4
reactant | 1-{2-{2-fluoro-4-[4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine | 228 mg | FC1=C(OCCN2CCCCC2)C=CC(=C1)CC1=C(C=C(C=C1)OC)C1=CC2=CC=C(C=C2CC1)OC | C32H36FNO3
product | 1-{2-{2-fluoro-4-[4-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine | 200 mg | FC1=C(OCCN2CCCCC2)C=CC(=C1)CC1=C(C=C(C=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C32H38FNO3
